US06784186B1
Preparation of (5α,6α)-7,8-didehydro-4,5-epoxy-17-(N-aminoiminomethylaminopropyl)morphinan-3,6-diol (KRS-2-47)
3,6-bis(t-butyldimethylsiloxy)-7,8-didehydro-4,5-epoxy-17-(N-aminoiminomethyl-aminopropyl)morphinan was deprotected using 40% HF in a 10:1 mixture of acetonitrile and tetrahydrofuran as described before. The precipitate was filtered and washed with acetonitrile, methylenechloride followed by methanol. KRS-2-47 was obtained as a white powder in 73% yield (70 mg).

reactant | 3,6-bis(t-butyldimethylsiloxy)-7,8-didehydro-4,5-epoxy-17-(N-aminoiminomethyl-aminopropyl)morphinan | O([Si](C)(C)C(C)(C)C)C=1C=CC=2C[C@@H]3[C@@H]4C=CC(C5[C@@]4(C2C1O5)CCN3CCCNC=NN)O[Si](C)(C)C(C)(C)C | C32H54N4O3Si2
reactant | acetonitrile | C(C)#N | C2H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (5α,6α)-7,8-didehydro-4,5-epoxy-17-(N-aminoiminomethylaminopropyl)morphinan-3,6-diol | 73% yield | O1C2=C(C=CC=3C[C@@H]4[C@@H]5C=C[C@@H]([C@H]1[C@@]5(C23)CCN4CCCNC=NN)O)O | C20H26N4O3
